US04128666
Methyl 3-(2,3-dichlorophenyl)propionate was refluxed in 10% aqueous sodium hydroxide (1 l.) for two hours and the reaction mixture was cooled, acidified and filtered. The filter cake was dissolved in hot aqueous sodium bicarbonate, and filtered. The filtrate was acidified and filtered to yield 3-(2,3-dichlorophenyl)propionic acid.

reactant | Methyl 3-(2,3-dichlorophenyl)propionate | ClC1=C(C=CC=C1Cl)CCC(=O)OC | C10H10Cl2O2
solvent | sodium hydroxide | 1 l | [OH-].[Na+]
product | 3-(2,3-dichlorophenyl)propionic acid | ClC1=C(C=CC=C1Cl)CCC(=O)O | C9H8Cl2O2
